US07067517B2
Morpholine-4-carboxylic acid 4-iodo-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-4-iodopyrazole and 4-morpholine carbonyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (99%, crystals).

reactant | 1-hydroxy-4-iodopyrazole | ON1N=CC(=C1)I | C3H3IN2O
reactant | 4-morpholine carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Morpholine-4-carboxylic acid 4-iodo-pyrazol-1-yl ester | IC=1C=NN(C1)OC(=O)N1CCOCC1 | C8H10IN3O3
